US09163003B2
2-{(R)-3-[4-(4-Methoxy-3-methyl-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-ylmethyl}-3H-cycloheptaimidazol-4-one
The title compound (18 mg) was prepared following the general procedures of Example 28 starting with 2-{(R)-3-[4-(4-methoxy-3-methyl-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-yl}-acetamidine (405 mg, 0.85 mmol). HRMS calculated for C27H30N4O4 474.5646. found (ESI, [M+H]+). found 475.2345. 1H NMR (400 MHz, CDCl3-d) 8 ppm 1.74-2.11 (m, 4H) 2.22-2.44 (m, 5H) 2.57 (d, J=8.03 Hz, 1H) 3.09 (d, J=6.53 Hz, 3H) 3.28-3.40 (m, 1H) 3.50 (t, J=8.28 Hz, 2H) 3.62-3.83 (m, 1H) 3.89-3.97 (m, 3H) 4.82 (br. s, 2H) 6.87 (d, J=8.53 Hz, 1H) 7.00-7.11 (m, 1H) 7.26-7.36 (m, 5H) 7.38-7.47 (m, 1H) 7.72-7.86 (m, 3H) HPLC (Novapak 150×3.9 mm C18 column: mobile phase: 10-90% acetonitrile/water with 0.1% TFA, at 2 mL/min over 5 min.) retention time=2.874 min.

reactant | 2-{(R)-3-[4-(4-methoxy-3-methyl-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-yl}-acetamidine | 0.85 mmol, 405 mg | COC1=C(C=C(C(=O)C2CCN(CC2)[C@H]2C(N(CC2)CC(=N)N)=O)C=C1)C | C20H28N4O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetonitrile water | C(C)#N.O
product | 2-{(R)-3-[4-(4-Methoxy-3-methyl-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-ylmethyl}-3H-cycloheptaimidazol-4-one | 18 mg | COC1=C(C=C(C(=O)C2CCN(CC2)[C@H]2C(N(CC2)CC=2NC3=C(N2)C=CC=CC3=O)=O)C=C1)C | C27H30N4O4
